US05597832
10a. 2-(2,2-dimethylpropyl)thiophene
To 45 mL of diethylene glycol was added 5.04 g (90 mmol) of KOH, and the mixture was stirred until solution was complete. To this was added 5.05 g (30 mmol) of 2.2-dimethyl-1-thiophenyl-1-propanone (Lancaster Chemical Co.), and 3.75 g of hydrazine monohydrate, and the reaction was stirred at reflux for 48 hours. The solution was cooled, diluted with 100 mL of 1N HCl and 100 mL of water, and extracted with pentane. The extract was dried over MgSO4, filtered and concentrated to give 4.31 g of the title product. NMR (CDCl3) δ:0.95 (s, 9H), 2.70 (s, 2H), 6.75 (dd, 1H, J=1, J=4 Hz), 6.98 (dd, 1H, J=4, J=6 Hz), 7.12 (dd, 1H, J=1, J=6 Hz).

reactant | diethylene glycol | 45 mL | C(COCCO)O | C4H10O3
reactant | KOH | 90 mmol, 5.04 g | [OH-].[K+]
reactant | 2.2-dimethyl-1-thiophenyl-1-propanone | 30 mmol, 5.05 g | CC(C(=O)C=1SC=CC1)(C)C | C9H12OS
reactant | hydrazine monohydrate | 3.75 g | O.NN
solvent | HCl | 1N, 100 mL | Cl | ClH
solvent | water | 100 mL | O | H2O
product | 2-(2,2-dimethylpropyl)thiophene | 4.31 g | CC(CC=1SC=CC1)(C)C | C9H14S
